US05276150
Synthesis of methyl 1,4-dihydro-2,6-dimethyl-5-(2-methoxyphenyl)-4-(3-nitrophenyl)pyridine-3-carboxylate
A mixuture of 297 mg (1 mmol) of 3-(2-methoxyphenyl)-4-(3-nitrophenyl)-3-butene-2-one, 575 mg (5 mmol) of methyl 3-aminocrotonate, 273 mg (2 mmol) of zinc chloride, and 500 mg of Molecular Shieves 4A was added to 1,4-dioxane. This reaction mixture was refluxed with application of heat in an inert atmoshpere for 5 hours. The reaction mixture was then cooled to room temperature and neutralized with a saturated aqueous solution of sodium hydrogencarbonate, followed by extraction with chloroform. The solvents contained in the extract were distilled off and the residue was chromatographed on a silica gel column, whereby the captioned compound was obtained. The yield was 216 mg (55%).

reactant | 3-(2-methoxyphenyl)-4-(3-nitrophenyl)-3-butene-2-one | 1 mmol, 297 mg | COC1=C(C=CC=C1)C(C(C)=O)=CC1=CC(=CC=C1)[N+](=O)[O-] | C17H15NO4
reactant | methyl 3-aminocrotonate | 5 mmol, 575 mg | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | zinc chloride | 2 mmol, 273 mg | [Cl-].[Zn+2].[Cl-]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | methyl 1,4-dihydro-2,6-dimethyl-5-(2-methoxyphenyl)-4-(3-nitrophenyl)pyridine-3-carboxylate | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C1=C(C=CC=C1)OC)C | C22H22N2O5
